US04337247
(I) Production of BOC-(D)-Asn-Gly-MePhe-NHNHCONH2
0.85 g of Z-Gly-MePhe-NHNHCONH2 is subjected to catalytic reduction in methanol, dissolved in 10 ml of DMF, and after ice-cooling, 0.46 g of BOC-(D)-Asn-OH, 0.40 g of HONB and 0.45 g of DCC are added. The mixture is stirred for 15 hours. The precipitated DCU is filtered off, the solvent is distilled off and the residue is dissolved in n-butanol. The solution is washed with saturated aqueous sodium hydrogen carbonate and aqueous sodium chloride in that order and dried over anhydrous sodium sulfate. The solvent is distilled off, ether is added to the residue and the mixture is filtered to obtain a powder. Yield 0.78 g; m.p. 133°-136° C.; [α]D24 -36.5° (c=1.0, DMF); Rf1 0.09.

reactant | Z-Gly-MePhe-NHNHCONH2 | 0.85 g | N(CC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)N)C)C(=O)OCC1=CC=CC=C1 | C21H25N5O5
reactant | BOC-(D)-Asn-OH | 0.46 g | N([C@H](CC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C9H16N2O5
reactant | HONB | 0.40 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 0.45 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methanol | CO | CH4O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | BOC-(D)-Asn-Gly-MePhe-NHNHCONH2 | N([C@H](CC(N)=O)C(=O)NCC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)N)C)C(=O)OC(C)(C)C | C22H33N7O7
